US04348403
A 8.0 g portion of 4-(4-chlorobenzyloxy)phenacyl chloride and 2.3 g of thiourea were stirred in 70 ml of ethanol under reflux for 1 hour. After cooling, 100 ml of ether was added, and the precipitating crystals were recovered by filtration, resulting in 7.8 g (82.1%) of hydrochloride of 2-amino-4-[4-(4-chlorobenzyloxy) phenyl]thiazole. Recrystallized from 80% ethanol m.p., 248°-250° C.

reactant | 4-(4-chlorobenzyloxy)phenacyl chloride | ClC1=CC=C(COC2=CC=C(C(CCl)=O)C=C2)C=C1 | C15H12Cl2O2
reactant | thiourea | 2.3 g | NC(=S)N | CH4N2S
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-amino-4-[4-(4-chlorobenzyloxy) phenyl]thiazole | NC=1SC=C(N1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)Cl | C16H13ClN2OS
